US04201702
About 10 parts by weight of fine, granular, hydrated silica and 20 parts by weight of methallyl chloride are mixed then agitated at ambient temperature for about 1 hour, thereby producing as mixture of poly (methyallyl chloride) polymer, methallyl chloride and hydrated silica. About 50 parts by weight of methyl chloride, containing a Friedel-Crafts catalyst, boron trifluoride, in the amount of 0.8 parts by weight, are added to said mixture and cooled to -40 degree to -100 degree F.; then this mixture is slowly added to a mixture containing about 100 parts by weight of isobutylene and 150 parts by weight of methyl chloride while agitating and keeping the temperature between -40 degree to -100 degree F., thereby producing poly (methallyl chloride isobutylene) copolymer.

reactant | methyl chloride | CCl | CH3Cl
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | isobutylene | CC(C)=C | C4H8
product | methallyl chloride isobutylene | CC(C)=C.C(C(C)=C)Cl | InChI=1S/C4H7Cl.C4H8/c1-4(2)3-5;1-4(2)3/h1,3H2,2H3;1H2,2-3H3
